US08293909B2
Trifluoroacetic acid (0.95 mL, 12.4 mmol) was added to a stirring solution of 2-(benzyloxy)-4-((4-fluorophenyl)ethynyl)-5-(methoxymethoxy)pyridine (450 mg, 1.24 mmol) in dichloroethane (5 mL) at room temperature. It was allowed to stir for 5 hours and then concentrated to dryness to give 6-(benzyloxy)-4-((4-fluorophenyl)ethynyl)pyridin-3-ol (395 mg, 1.24 mmol, 100% yield) consistent by LCMS. LC-MS retention time: 2.49 min; m/z (MH+): 320. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | Trifluoroacetic acid | 12.4 mmol, 0.95 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(benzyloxy)-4-((4-fluorophenyl)ethynyl)-5-(methoxymethoxy)pyridine | 1.24 mmol, 450 mg | C(C1=CC=CC=C1)OC1=NC=C(C(=C1)C#CC1=CC=C(C=C1)F)OCOC | C22H18FNO3
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | 6-(benzyloxy)-4-((4-fluorophenyl)ethynyl)pyridin-3-ol | 1.24 mmol, 395 mg, 100% yield | C(C1=CC=CC=C1)OC1=CC(=C(C=N1)O)C#CC1=CC=C(C=C1)F | C20H14FNO2
